US07863332B2
b. Preparation of 3-(3-heptyl-1-methylureido)phenylboronic acid
In a manner similar to that of Example (18a), by reaction of 113 g (0.345 mol, 1 eq) of 1-(3-bromophenyl)-3-heptyl-1-methylurea in 1.13 L of tetrahydrofuran, 127 mL (0.38 mol, 1.1 eq) of methyllithium, 530 mL (0.76 mol, 2.2 eq) of a 1.7M solution of tert-butyllithium in pentane and 97 mL (0.904 mol, 2.2 eq) of trimethyl borate, and after purification by chromatography on silica gel (50/50 heptane/ethyl acetate) and crystallization from ethyl acetate/heptane, 36.0 g of 3-(3-heptyl-1-methylureido)phenylboronic acid are obtained in the form of a pinkish powder. Yield=36%

reactant | 1-(3-bromophenyl)-3-heptyl-1-methylurea | 0.345 mol, 113 g, 1 eq | BrC=1C=C(C=CC1)N(C(=O)NCCCCCCC)C | C15H23BrN2O
reactant | methyllithium | 0.38 mol, 127 mL, 1.1 eq | C[Li]
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | trimethyl borate | 0.904 mol, 97 mL, 2.2 eq | B(OC)(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 1.13 L | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 3-(3-heptyl-1-methylureido)phenylboronic acid | Yield=36% | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)B(O)O)=O | C15H25BN2O3
